US07132426B2
Step 5: Preparation of 4-Amino-3-(4-methanesulfonyl-phenyl)-isoxazole-5-carboxylic acid ethyl ester.
3-(4-Methanesulfonyl-phenyl)-4-nitro-isoxazole-5-carboxylic acid ethyl ester (6.2 g) was suspended in sat. NH4Cl (100 mL) and treated with Zn (10.0 g) at room temperature. The reaction was stirred for 3 h and ethyl acetate (100 mL) was added. After stirring for 1 h, zinc was filtered off. The ethyl acetate was taken and washed with H2O, dried over MgSO4 and concentrated under vacuum to afford the crude product (4.3 g, 77%). The product was crystallized in ethyl acetate/hexane (1/3) to afford the desired compound. LCMS 311.1 [M+H].

reactant | 3-(4-Methanesulfonyl-phenyl)-4-nitro-isoxazole-5-carboxylic acid ethyl ester | 6.2 g | C(C)OC(=O)C1=C(C(=NO1)C1=CC=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C13H12N2O7S
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | NH4Cl | 100 mL | [NH4+].[Cl-]
catalyst | Zn | 10.0 g | [Zn] | Zn
product | 4-Amino-3-(4-methanesulfonyl-phenyl)-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C(=NO1)C1=CC=C(C=C1)S(=O)(=O)C)N | C13H14N2O5S
